US07888349B2
Triethylamine (24.0 mL, 172.58 mmol) was added to a solution of tert-butyl 2-[(3-amino-7-benzyloxyquinolin-4-yl)amino]ethylcarbamate (35.25 g, 86.29 mmol) in dichloromethane (400 mL), and the reaction was stirred at ambient temperature. Chloroacetyl chloride (6.87 mL, 86.29 mmol) was quickly added at ambient temperature, and the reaction was stirred for 10 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethanol (500 mL) and stirred for two days at ambient temperature. The mixture was concentrated under reduced pressure and the residue was recrystallized from dichloromethane to afford 6.23 g of tert-butyl 2-[7-benzyloxy-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate. The mother liquor was divided into two portions which were separately purified by normal phase prep HPLC on silica gel (eluting with 2 N ammonia in methanol/chloroform in a 33-minute gradient from 0:100 to 5:95) and combined to provide an additional 24.21 g of product.

reactant | Triethylamine | 172.58 mmol, 24.0 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-[(3-amino-7-benzyloxyquinolin-4-yl)amino]ethylcarbamate | 86.29 mmol, 35.25 g | NC=1C=NC2=CC(=CC=C2C1NCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C23H28N4O3
reactant | Chloroacetyl chloride | 86.29 mmol, 6.87 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | tert-butyl 2-[7-benzyloxy-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | 6.23 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCNC(OC(C)(C)C)=O)CCl | C25H27ClN4O3
